US07538241B2
Methyl 2-bromo-3,5-bis(methoxymethoxy)phenylacetate (630 mg, 1.8 mmol)-obtained in the step 2 in Example 1 was dissolved in a mixed solvent of 1,2-dimethoxyethane (10 mL) and water (2 mL), and in an argon atmosphere, 3-formylphenylboronic acid (400 mg, 2.7 mmol), bis(tri-o-tolylphosphine)palladium(II) dichloride (140 mg, 0.17 mmol) and cesium carbonate (1.1 g, 7.2 mmol) were added thereto, and stirred under heat for 10 hours. The reaction mixture was cooled to room temperature, then filtered, and the filtrate was concentrated under reduced pressure. Water was added to the resulting residue, and extracted twice with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate, and the solvent was evaporated away under reduced pressure. The resulting residue was purified through silica gel column chromatography (ethyl acetate/n-hexane=1/4 to 1/2) to obtain methyl 2-(3-formylphenyl)-3,5-bis(methoxymethoxy)phenylacetate (500 mg, 75%).

reactant | Methyl 2-bromo-3,5-bis(methoxymethoxy)phenylacetate | 1.8 mmol, 630 mg | BrC1=C(C=C(C=C1OCOC)OCOC)CC(=O)OC | C13H17BrO6
reactant | 3-formylphenylboronic acid | 2.7 mmol, 400 mg | C(=O)C=1C=C(C=CC1)B(O)O | C7H7BO3
reactant | cesium carbonate | 7.2 mmol, 1.1 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1,2-dimethoxyethane | 10 mL | COCCOC | C4H10O2
solvent | water | 2 mL | O | H2O
catalyst | bis(tri-o-tolylphosphine)palladium(II) dichloride | 0.17 mmol, 140 mg | CC1=C([P](C2=C(C)C=CC=C2)([Pd]([P](C3=C(C)C=CC=C3)(C4=C(C)C=CC=C4)C(C=CC=C5)=C5C)(Cl)Cl)C6=C(C)C=CC=C6)C=CC=C1
product | methyl 2-(3-formylphenyl)-3,5-bis(methoxymethoxy)phenylacetate | 500 mg, 75% | C(=O)C=1C=C(C=CC1)C1=C(C=C(C=C1OCOC)OCOC)CC(=O)OC | C20H22O7
